US07897609B2
The method described in Example 152 was used to treat N-{2-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-1,1-dimethylethyl}methanesulfonamide (1.2 g, 2.55 mmol) and 3-(hydroxymethyl)benzeneboronic acid (0.58 g, 3.8 mmol) in 1-propanol (15 mL) with triphenylphosphine (20.0 mg, 0.0760 mmol), aqueous sodium carbonate (3.82 mL of 2 M), water (3 mL), and palladium (II) acetate (5.7 mg, 0.025 mmol) with the following modifications. The reaction mixture was heated at reflux overnight. The crude product was purified by automated flash chromatography (FLASH 40+M cartridge, eluting with 0% to 35% CMA in chloroform) followed by recrystallization from acetonitrile to provide 0.98 g of N-(2-{4-amino-2-(ethoxymethyl)-7-[3-(hydroxymethyl)phenyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-1,1-dimethylethyl)methanesulfonamide as a white solid, mp 173-174° C.

reactant | N-{2-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-1,1-dimethylethyl}methanesulfonamide | 2.55 mmol, 1.2 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC)Br | C17H23BrN6O3S
reactant | 3-(hydroxymethyl)benzeneboronic acid | 3.8 mmol, 0.58 g | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2 M, 3.82 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 3 mL | O | H2O
solvent | 1-propanol | 15 mL | C(CC)O | C3H8O
catalyst | palladium (II) acetate | 0.025 mmol, 5.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.0760 mmol, 20.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | N-(2-{4-amino-2-(ethoxymethyl)-7-[3-(hydroxymethyl)phenyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-1,1-dimethylethyl)methanesulfonamide | 0.98 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC)C2=CC(=CC=C2)CO | C24H30N6O4S
